US04472305
Condesation of BocProOH (6.46 g.) and N-hydroxysuccinimide (3.5 g.) using dicyclohexylcarbodiimide gave BocProOSu in 75% yield. Condensation of BocProOSu (5.0 g.) and HDPheOH (2.75 g.) by the salt coupling method gave BocPro-DPheOH in 67% yield. Condensation of BocPro-DPheOH (3.98 g.) and HPheOMe hydrochloride salt (2.4 g.) using dicyclohexylcarbodiimide and N-hydroxysuccinimide gave BocPro-DPhe-PheOMe in 74% yield. Hydrazinolysis of Boc-Pro-DPhe-PheOMe (3.14 g.) gave BocPro-DPhe-PheNHNH2 in 79% yield.

reactant | BocPro-DPheOH | 3.98 g | N1([C@H](C(=O)N[C@H](CC2=CC=CC=C2)C(=O)O)CCC1)C(=O)OC(C)(C)C | C19H26N2O5
reactant | HPheOMe hydrochloride | 2.4 g | N[C@@H](CCC1=CC=CC=C1)C(=O)OC.Cl
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
product | BocPro-DPhe-PheOMe | 74% yield | N1([C@H](C(=O)N[C@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OC)CCC1)C(=O)OC(C)(C)C | C29H37N3O6
